US04306097
trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)-phenyl]-5-methyl-cyclohexanone
To a 0° C. solution of dimethyl copper lithium (2.47 mmole) in ether (3 ml) and hexane (2 ml) was added dropwise a solution of 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-cyclohexen-1-one (500 mg, 1.24 mmole) in ether (1.5 ml). The reaction mixture was stirred for 15 minutes and then poured into saturated aqueous ammonium cloride (300 ml). The quenched reaction was extracted with three 50 ml portions of ether, the combined ether extracts washed with water, saturated sodium chloride, dried over magnesium sulfate and evaporated to yield 475 mg (92%) of the title compound as an oil.

reactant | dimethyl copper lithium | 2.47 mmole | [Li].C[Cu]C
reactant | 5-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-cyclohexen-1-one | 1.24 mmole, 500 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC=CC(C1)=O | C28H36O2
reactant | ammonium cloride | 300 ml | [Cl-].[NH4+]
solvent | ether | 3 ml | CCOCC | C4H10O
solvent | hexane | 2 ml | CCCCCC | C6H14
solvent | ether | 1.5 ml | CCOCC | C4H10O
product | trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)-phenyl]-5-methyl-cyclohexanone | 475 mg, 92% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@@H]1CC(C[C@H](C1)C)=O | C29H40O2
